US04487783
160 ml of methanol are added to 18.2 g of sodium borohydride. 90.7 g of 4-fluorobenzaldehyde-cyclopentylimide are added dropwise at 10°-15° C., while cooling with ice and stirring, and the mixture was then stirred for 1.5 hours at room temperature. 120 ml of H2O and 150 ml of methylene chloride were then added, the methylene chloride phase was separated off, and the aqueous phase was further extracted twice with CH2Cl2. The combined methylene chloride phases were washed with water and dried with Na2SO4, and the solvent was stripped off in vacuo. Distillation of the residue under a medium vacuum gave 85.9 g of N-4-fluorobenzyl-N-cyclopentylamine of boiling point 106° C. 0.25 bar.

reactant | methanol | 160 ml | CO | CH4O
reactant | sodium borohydride | 18.2 g | [BH4-].[Na+]
reactant | 4-fluorobenzaldehyde-cyclopentylimide | 90.7 g | C1(CCCC1)N=CC1=CC=C(C=C1)F | C12H14FN
reactant | H2O | 120 ml | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-4-fluorobenzyl-N-cyclopentylamine | 85.9 g | FC1=CC=C(CNC2CCCC2)C=C1 | C12H16FN
